US03963730
A solution of 6.3 g. of acetonine in a mixed solvent comprising 20 g. of acetone and 2 g. of ethanol was added with 0.5 g. of acetic acid. The mixture was heated at 60°C. for 10 hours in a sealed equipment to effect the reaction. After completion of the reaction, the reaction mixture was purified in the same manner as in Example 1 to obtain triacetonamine in a yield of 89.5%.

reactant | acetonine | CC1=NC(NC(C1)(C)C)(C)C | C9H18N2
reactant | acetone | CC(=O)C | C3H6O
reactant | ethanol | C(C)O | C2H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | triacetonamine | yield of 89.5% | CC1(CC(=O)CC(N1)(C)C)C | C9H17NO
